US04115348
Preparation of 4-{2-[4-(2-benzoxazolyl)phenoxy]ethoxy}-2-hydroxybenzophenone (I).
Other novel multichromophoric compounds can be prepared by substitution of other benzoxazoles for 2-(p-hydroxyphenyl)benzoxazole such as 2-(o-hydroxyphenyl)benzoxazole, 2-(m-hydroxyphenyl)benzoxazole, 2-(3-chloro-4-hydroxyphenyl)benzoxazole, 2-(3-methyl-4-hydroxyphenyl)benzoxazole, 2-(3,5-dimethyl-4-hydroxyphenyl)benzoxazole, 2-(3,5-dichloro-4-hydroxyphenyl)benzoxazole, 2-(3,5-dimethoxy-4-hydroxyphenyl)benzoxazole, 2-(2-chloro-4-hydroxy)benzoxazole, 2-(2,6-dichloro-4-hydroxyphenyl)benzoxazole and 2-(2,6-dimethyl-4-hydroxyphenyl)benzoxazole.

reactant | 2-(p-hydroxyphenyl)benzoxazole | OC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H9NO2
reactant | 2-(o-hydroxyphenyl)benzoxazole | OC1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C13H9NO2
reactant | 2-(3-chloro-4-hydroxyphenyl)benzoxazole | ClC=1C=C(C=CC1O)C=1OC2=C(N1)C=CC=C2 | C13H8ClNO2
reactant | 2-(3-methyl-4-hydroxyphenyl)benzoxazole | CC=1C=C(C=CC1O)C=1OC2=C(N1)C=CC=C2 | C14H11NO2
reactant | 2-(3,5-dimethyl-4-hydroxyphenyl)benzoxazole | CC=1C=C(C=C(C1O)C)C=1OC2=C(N1)C=CC=C2 | C15H13NO2
reactant | 2-(3,5-dichloro-4-hydroxyphenyl)benzoxazole | ClC=1C=C(C=C(C1O)Cl)C=1OC2=C(N1)C=CC=C2 | C13H7Cl2NO2
reactant | 2-(3,5-dimethoxy-4-hydroxyphenyl)benzoxazole | COC=1C=C(C=C(C1O)OC)C=1OC2=C(N1)C=CC=C2 | C15H13NO4
reactant | 2-(2,6-dichloro-4-hydroxyphenyl)benzoxazole | ClC1=C(C(=CC(=C1)O)Cl)C=1OC2=C(N1)C=CC=C2 | C13H7Cl2NO2
reactant | 2-(2,6-dimethyl-4-hydroxyphenyl)benzoxazole | CC1=C(C(=CC(=C1)O)C)C=1OC2=C(N1)C=CC=C2 | C15H13NO2
product | 4-{2-[4-(2-benzoxazolyl)phenoxy]ethoxy}-2-hydroxybenzophenone | O1C(=NC2=C1C=CC=C2)C2=CC=C(OCCOC1=CC(=C(C(=O)C3=CC=CC=C3)C=C1)O)C=C2 | C28H21NO5
